US08013008B2
benzyl (2S,3S)-3-hydroxy-2-methyl-3-(trifluoromethyl)pyrrolidine-1-carboxylate
To a solution (10 mL) of benzyl (2S)-2-methyl-3-oxopyrrolidine-1-carboxylate (1.0 g) in THF were added trifluoromethyltrimethylsilane (0.95 mL) and 1 mol/L tetrabutylammonium fluoride—THF solution (0.43 mL) under ice-cooling, and the mixture was stirred at room temperature for 18 hr. A 1 mol/L tetrabutylammonium fluoride—THF solution (8.56 mL) was added to the reaction mixture, and the mixture was stirred at 50° C. for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→2:1) to give the title compound as colorless oil (yield: 1.06 g, yield: 81%).

reactant | benzyl (2S)-2-methyl-3-oxopyrrolidine-1-carboxylate | 10 mL, 1.0 g | C[C@@H]1N(CCC1=O)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | trifluoromethyltrimethylsilane | 0.95 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride THF | 1 mol/L, 0.43 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | tetrabutylammonium fluoride THF | 1 mol/L, 8.56 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | benzyl (2S,3S)-3-hydroxy-2-methyl-3-(trifluoromethyl)pyrrolidine-1-carboxylate | yield: 1.06 g, yield: 81% | O[C@@]1([C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C)C(F)(F)F | C14H16F3NO3
